US05424450
A mixture of potassium carbonate (500 mg, 3.7 mmol), 2-propyl-4-4-dimethyl-1H-imidazol-5(4H)-one (0.6 g, 3.9 mmol), and 4'-bromomethyl-2-(triphenyl methyl tetrazol-5-yl)biphenyl (1.08 g, 1.9 mmol) in dimethyl formamide (5 mL) was allowed to stir at room temperature overnight. The mixture was chromatographed over silica gel eluting with ethyl acetate-hexane to give 1,5-dihydro-5,5-dimethyl-2-propyl-1-[(2'-(triphenyl methyl tetrazol-5-yl)(1,1'-biphenyl)-4-yl)methyl]-4H-imidazol-4-one (70 mg, 14% ) M.S. m/e 631.5 (M+ +H) NMR (CDCl3 /TMS) δ0.88 (t, 3H, J=7 Hz, CH3), 1.38 (s, 6H, 2 CH3), 1.67 (m, 2H, CH2), 2.21 (t, 2H, J=7Hz, CH2), 4.56 (s, 2H, CH2), 6.92 (d, J= 7 Hz, 8H, Harom), 7.11 (d, J=7 Hz, 2H, Harom), 7.24-7.38 (m, 10H, Harom), 7.47 (m, 2H, Harom), 7.92 (m, 1H, Harom).

reactant | potassium carbonate | 3.7 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4'-bromomethyl-2-(triphenyl methyl tetrazol-5-yl)biphenyl | 1.9 mmol, 1.08 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1N(N(N(N1C)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C33H29BrN4
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 1,5-dihydro-5,5-dimethyl-2-propyl-1-[(2'-(triphenyl methyl tetrazol-5-yl)(1,1'-biphenyl)-4-yl)methyl]-4H-imidazol-4-one | 70 mg, 14% | CC1(C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1N(N(N(N1C)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)CCC)=O)C | C41H42N6O
